US04464530
To 200 ml of acetone were added 10.0 g of D-xylose and 175 mg of hydriodic acid (57%) and the mixture was refluxed with stirring in a water bath at 60° C. for 5 hours. During this reaction, the refluxing solvent was dried with 20 g of Molecular Sieves 3A interposed between the reaction vessel and the cooling jacket. After completion of the reaction, a small amount of pyridine was added and the acetone was distilled off under reduced pressure. The residue was dissolved in benzene and the benzene solution was washed with aqueous sodium bicarbonate and water and dried over anhydrous magnesium sulfate. The benzene was distilled off under reduced pressure and the residue was further distilled under reduced pressure, whereby 12.8 g (83.6%) of 1,2:3,5-di-O-isopropylidene-α-D-xylofuranose was obtained as a fraction boiling at 94°-97° C./3 mmHg.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | D-xylose | 10.0 g | O=C[C@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | hydriodic acid | 175 mg | I | HI
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,2:3,5-di-O-isopropylidene-α-D-xylofuranose | 12.8 g, 83.6% | CC1(OC[C@@H]2[C@H](O1)[C@@H]3[C@H](O2)OC(O3)(C)C)C | C11H18O5
